US08633175B2
A mixture of {4-[(2,3-dihydro-1H-inden-2-ylamino)methyl]-3,5-difluoro-phenyl}boronic acid (740 mg, 2.44 mmol; Ex V-22), 3-bromonitrobenzene (495 mg, 2.44 mmol), PdCl2(dppf)2 (100 mg, 0.12 mmol) and Na2CO3 (4.90 mL, 2.0 M (aq)) in DME (10 mL) was stirred at 80° C. for 45 min. The mixture was diluted with EtOAc then filtered through a pad of Celite and silica gel. The filtrate was washed with H2O and brine, dried over Na2SO4 then concentrated to give N-[(3,5-difluoro-3′-nitro-4-biphenylyl)methyl]-2,3-dihydro-1H-inden-2-amine as a tan glass. LC/MS (method A) 0.62 min, (m/z) 381 (70%), 382 (100%).

reactant | {4-[(2,3-dihydro-1H-inden-2-ylamino)methyl]-3,5-difluoro-phenyl}boronic acid | 2.44 mmol, 740 mg | C1C(CC2=CC=CC=C12)NCC1=C(C=C(C=C1F)B(O)O)F | C16H16BF2NO2
reactant | 3-bromonitrobenzene | 2.44 mmol, 495 mg | BrC=1C=C(C=CC1)[N+](=O)[O-] | C6H4BrNO2
reactant | Na2CO3 | 2.0 M, 4.90 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf)2 | 0.12 mmol, 100 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[(3,5-difluoro-3′-nitro-4-biphenylyl)methyl]-2,3-dihydro-1H-inden-2-amine | FC=1C=C(C=C(C1CNC1CC2=CC=CC=C2C1)F)C1=CC(=CC=C1)[N+](=O)[O-] | C22H18F2N2O2
